* D:\ISU_Files\ISU_Files\SPRING_2026\EE 2300\HW\HW3-3\BookP1.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N004 N003 10k
R2 N005 Vo 10k
R3 N001 N006 1k
R4 N003 N001 200k
C1 N003 N001 1.6n
C2 Vo N004 1.6n
R5 N002 N005 10k
R6 N002 N001 10k
V1 N006 0 AC 1 0
X§U1 N001 0 N003 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
X§U2 N004 0 Vo opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
X§U3 N005 0 N002 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
.ac dec 50 10 100000
.lib opamp.sub
.backanno
.end
